US07714009B2
N2-Mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine
To a solution of 0.50 g (1.2 mmol) of N7-benzyl-N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine in 30 mL of methanol was added 0.43 g (10 mol % Pd) of 20% Pearlman's catalyst (50% wet). The reaction was kept under a hydrogen atmosphere via a balloon and stirred at room temperature for 48 h. The catalyst was removed via filtration and the filtrate was concentrated in vacuo. Purification by flash chromatography eluting with a 7% methanol/dichloromethane mixture gave 0.23 g (58%) of the title compound as a cream colored solid.

reactant | N7-benzyl-N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine | 1.2 mmol, 0.50 g | C(C1=CC=CC=C1)N(C1=CC=CC2=C1N(C(=N2)NC2=C(C=C(C=C2C)C)C)C)CCC | C27H32N4
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pearlman's catalyst | 0.43 g | [OH-].[OH-].[Pd+2]
product | N2-Mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine | 0.23 g, 58% | C1(=C(C(=CC(=C1)C)C)NC1=NC2=C(N1C)C(=CC=C2)NCCC)C | C20H26N4
